US06448242B1
After pyridine (0.090 ml; 1.1 mmol), carbon tetrabromide (716 mg; 2.2 mmol) and triphenylphosphine (567 mg; 2.2 mmol) were added to a solution in diethyl ether (5 ml) of 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]ethyl alcohol (476 mg; 1.1 mmol) synthesized by the above process under ice cooling, the ice bath was removed, and the mixture was stirred at room temperature for 12 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 465 mg (yield: 86%) of 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(bromomethyl)propane as a colorless oil.

reactant | pyridine | 1.1 mmol, 0.090 ml | N1=CC=CC=C1 | C5H5N
reactant | carbon tetrabromide | 2.2 mmol, 716 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.2 mmol, 567 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)methyl]ethyl alcohol | 1.1 mmol, 476 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CO)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H44N2O5
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(bromomethyl)propane | 465 mg, yield: 86% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(=O)OC(C)(C)C)CBr | C24H43BrN2O4
